US05112835
An amount of 3.84 g (30 mmol) of 2-thiouracil was suspended in 75 ml of methylene chloride, was added to 17.8 ml (72 mmol) of bis(trimethylsilyl)acetamide and 7.2 g (45 mmol) of (2-acetoxyethoxy)methyl acetate and allowed to react at room temperature for 20 minutes. Then, the reaction solution was cooled to 0° C. and added to 4.5 ml (45 mmol) of stannic chloride. After the temperature of the solution had risen to room temperature, the solution was left to react overnight and then added to ice and sodium bicarbonate. After filtering off the deposited solid, the reaction solution was distributed between methylene chloride and aqueous layers. The methylene chloride layer was concentrated to dryness, and the residue was dissolved in a small amount of chloroform, adsorbed on a silica gel column and eluted with 2.5% methanol/chloroform. The eluate was concentrated, and the residue so obtained was dissolved in 5 ml of ethanol, was added to 5 ml of 1N sodium hydroxide aqueous solution and allowed to react at room temperature for 10 minutes. After the reaction, it was neutralized with H+ type cation-exchange resin (Dowex-50). Then, after the removal of the resin by filtration, the reaction solution is concentrated to dryness. The residue was dissolved in 15 ml of dimethylformamide, to this solution 600 mg (4 mmol) of t-butyldimethylsilyl chloride and 270 mg (4 mmol) of imidazole was added and the reaction mixture was allowed to react at room temperature for one hour. Then, the reaction solution was added to 50 ml of water, and the deposited solid was recovered by filtration and dried. The resultant product was recrystallized from toluene/hexane to obtain 716 mg of 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-2-thiouracil (Yield: 7.5%).

reactant | 2-thiouracil | 30 mmol, 3.84 g | N1C(=S)NC(=O)C=C1 | C4H4N2OS
reactant | bis(trimethylsilyl)acetamide | 72 mmol, 17.8 ml | C[Si](C)(C)C(C(=O)N)[Si](C)(C)C | C8H21NOSi2
reactant | (2-acetoxyethoxy)methyl acetate | 45 mmol, 7.2 g | C(C)(=O)OCOCCOC(C)=O | C7H12O5
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium hydroxide | 1N, 5 ml | [OH-].[Na+]
reactant | t-butyldimethylsilyl chloride | 4 mmol, 600 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 4 mmol, 270 mg | N1C=NC=C1 | C3H4N2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
solvent | ethanol | 5 ml | C(C)O | C2H6O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | 50 ml | O | H2O
product | 1-[(2-t-butyldimethylsilyloxyethoxy)methyl]-2-thiouracil | 716 mg, Yield: 7.5% | [Si](C)(C)(C(C)(C)C)OCCOCN1C(=S)NC(=O)C=C1 | C13H24N2O3SSi
